US07790720B2
A mixture of 4-(3-chloropropoxy)-2-fluorobenzamide i82 (0.41 g, 1.75 mmol, 1 eq) and 1,3-dichloroacetone (0.49 g, 3.85 mmol, 2.2 eq) in propionitrile (9 ml) is stirred at 100° C. for 60 h. The mixture is then concentrated under vacuum, taken up in dichloromethane, and washed with water. The organic phase is dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by chromatography over silicagel (eluent: dichloromethane) to afford 0.23 g of 4-(chloromethyl)-2-[4-(3-chloropropoxy)-2-fluorophenyl]-1,3-oxazole i84.

reactant | 4-(3-chloropropoxy)-2-fluorobenzamide | ClCCCOC1=CC(=C(C(=O)N)C=C1)F | C10H11ClFNO2
reactant | 1,3-dichloroacetone | 3.85 mmol, 0.49 g, 2.2 eq | ClCC(=O)CCl | C3H4Cl2O
solvent | propionitrile | 9 ml | C(CC)#N | C3H5N
product | 4-(chloromethyl)-2-[4-(3-chloropropoxy)-2-fluorophenyl]-1,3-oxazole | 0.23 g, Yield: 44% | ClCC=1N=C(OC1)C1=C(C=C(C=C1)OCCCCl)F | C13H12Cl2FNO2
